US08445510B2
3-[4-(3-{(1S)-1-[2-Chloro-6-(difluoromethoxy)-3-fluorophenyl]ethyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)-5-methyl-1H-pyrazol-1-yl]cyclobutanone
A mixture of tert-butyl 5-bromo-3-{(1S)-1-[2-chloro-6-(difluoromethoxy)-3-fluorophenyl]ethyl}-1H-pyrrolo[2,3-b]pyridine-1-carboxylate (41.1 mg, 0.0791 mmol), 1-(5,8-dioxaspiro[3.4]oct-2-yl)-5-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (38.0 mg, 0.119 mmol), Pd(PPh3)4 (4.57 mg, 0.00396 mmol), K2CO3 (32.8 mg, 0.237 mmol) and 4:1 dioxane:H2O (3 mL, 30 mmol) was heated to 95° C. for 1 h. The solution was allowed to cool to rt, and 2 M of HCl in H2O (2 mL, 4 mmol) was added. The mixture was heated at 45° C. overnight. The organic solvent was removed in vacuo, and the material was extracted with DCM and sat. NaHCO3. The organic layer was loaded onto silica gel for column chromatography, eluting with 1-3% MeOH/DCM. The fractions containing the pure product were concentrated in vacuo to afford the title compound as a white solid. MS (ES+): m/z=489.09/491.09 (100/50) [MH+]. HPLC: tR=4.04 min (polar—5 min, ZQ3).

reactant | tert-butyl 5-bromo-3-{(1S)-1-[2-chloro-6-(difluoromethoxy)-3-fluorophenyl]ethyl}-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 0.0791 mmol, 41.1 mg | BrC=1C=C2C(=NC1)N(C=C2[C@H](C)C2=C(C(=CC=C2OC(F)F)F)Cl)C(=O)OC(C)(C)C | C21H19BrClF3N2O3
reactant | 1-(5,8-dioxaspiro[3.4]oct-2-yl)-5-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.119 mmol, 38.0 mg | C1C(CC12OCCO2)N2N=CC(=C2C)B2OC(C(O2)(C)C)(C)C | C16H25BN2O4
reactant | K2CO3 | 0.237 mmol, 32.8 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 30 mmol, 3 mL | O | H2O
reactant | HCl | 2 M | Cl | ClH
reactant | H2O | 4 mmol, 2 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.00396 mmol, 4.57 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-[4-(3-{(1S)-1-[2-Chloro-6-(difluoromethoxy)-3-fluorophenyl]ethyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)-5-methyl-1H-pyrazol-1-yl]cyclobutanone | ClC1=C(C(=CC=C1F)OC(F)F)[C@@H](C)C1=CNC2=NC=C(C=C21)C=2C=NN(C2C)C2CC(C2)=O | C24H20ClF3N4O2
